US07985753B2
2-Chloro-3-(2-methyl-[1,3]dioxolan-2-yl)-pyridine
1-(2-Chloro-pyridin-3-yl)-ethanone (2.21 g, 14.2 mmol, 1.0 equiv), ethylene glycol (4.41 g, 71.0 mmol, 5.0 equiv) and p-toluenesulfonic acid monohydrate (1.35 g, 7.1 mmol, 0.5 equiv) are dissolved in toluene (100 mL). The resulting mixture is heated overnight under Dean Stark conditions. After cooling to room temperature the mixture is washed twice with saturated NaHCO3 solution, brine, dried over Na2SO4 and evaporated in vacuo. The residue is purified by flash column chromatography (10% to 50% ethyl acetate in heptane) to yield 2.19 g of the title compound.

reactant | 1-(2-Chloro-pyridin-3-yl)-ethanone | 14.2 mmol, 2.21 g, 1.0 equiv | ClC1=NC=CC=C1C(C)=O | C7H6ClNO
reactant | ethylene glycol | 71.0 mmol, 4.41 g, 5.0 equiv | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 7.1 mmol, 1.35 g, 0.5 equiv | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-3-(2-methyl-[1,3]dioxolan-2-yl)-pyridine | 2.19 g, Yield: 77% | ClC1=NC=CC=C1C1(OCCO1)C | C9H10ClNO2
